US04013670
Starting with 2,2,2-trifluoroethyl 2,5-bis(2,2,2-trifluoroethoxy)benzoate and 2-(1-aminoethyl)piperidine and using the procedure illustrated in Examples 21 and 22, the product 2,5-bis(2,2,2-trifluoroethoxy)-N-[1-(2-piperidyl)ethyl]-benzamide, m.p. 95°-97° C., is obtained as white needles.

reactant | 2,2,2-trifluoroethyl 2,5-bis(2,2,2-trifluoroethoxy)benzoate | FC(COC1=C(C(=O)OCC(F)(F)F)C=C(C=C1)OCC(F)(F)F)(F)F | C13H9F9O4
reactant | 2-(1-aminoethyl)piperidine | NC(C)C1NCCCC1 | C7H16N2
product | 2,5-bis(2,2,2-trifluoroethoxy)-N-[1-(2-piperidyl)ethyl]-benzamide | FC(COC1=C(C(=O)NC(C)C2NCCCC2)C=C(C=C1)OCC(F)(F)F)(F)F | C18H22F6N2O3
